US04898945
7.0 kg of 2,5-dimethyl-6-fluoroquinoline, 51.5 kg of glacial acetic acid and 350 g of 50% water-wet 5% platinum on carbon catalyst were combined and hydrogenated at 50 psi for 20 hours. Gas chromatography showed residual starting material so an additional 35 g of catalyst was added and the hydrogenation was continued for an additional 2 hours. The mixture was filtered to remove the catalyst and the solvent was then evaporated. The residue was dissolved in 10 gallons of cold water, and the resulting mixture was made basic with ammonium hydroxide to pH 11 while maintaining the temperature below 30° C. The resulting mixture was extracted with 8 gallons of 1,2-dichloroethane and the extract was dried through azeotropic distillation. The dried extract was treated with magnesium sulfate and filtered, and the filtrate was concentrated in vacuo to give a dark oil, 2,5-dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoline, which was used directly in the next step.

reactant | 2,5-dimethyl-6-fluoroquinoline | 7.0 kg | CC1=NC2=CC=C(C(=C2C=C1)C)F | C11H10FN
catalyst | water | 350 g | O | H2O
solvent | acetic acid | 51.5 kg | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoline | CC1NC2=CC=C(C(=C2CC1)C)F | C11H14FN
